US05246948
Synthesis of 4-[3-(2-quinoxaloylamino)propylthio]pyridine
To a solution of 4.30 g (17.8 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 8.68 ml (62.3 mmol) of triethylamine in 200 ml of methylene chloride, 3.43 g (17.8 mmol) of 2-quinoxaloyl chloride was added with stirring under ice-cooling, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was washed with saturated aqueous sodium bicarbonate and water, and dried. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethyl acetate) and recrystallization (solvent: ethyl acetate-ether) to give 2.82 g of the desired compound (48.9% yield, white crystals).

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 17.8 mmol, 4.30 g | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 62.3 mmol, 8.68 ml | C(C)N(CC)CC | C6H15N
reactant | 2-quinoxaloyl chloride | 17.8 mmol, 3.43 g | N1=C(C=NC2=CC=CC=C12)C(=O)Cl | C9H5ClN2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-quinoxaloylamino)propylthio]pyridine | 2.82 g, 48.9% yield | N1=C(C=NC2=CC=CC=C12)C(=O)NCCCSC1=CC=NC=C1 | C17H16N4OS
